US04101659
A mixture of 13.3 g (0.0334 mole) of methyl N-(4-methylbenzhydryl)carbamimidothioate hydroiodide and 5.0 g (0.07 mole) of pyrrolidine in 40 mls of t-BuOH is heated under reflux for 24 hrs. The crude product crystallizes out of the reaction mixture while refluxing. The mixture is allowed to cool over night at room temperature and filtered to yield crude product; mp 227°-30° C. Recrystallization from MeOH/t-BuOH yields the pure N-(4-methylbenzhydryl)-1-pyrrolidinecarboximidamide hydroiodide; mp 229°-230° C, as a white solid.

reactant | methyl N-(4-methylbenzhydryl)carbamimidothioate hydroiodide | 0.0334 mole, 13.3 g | I.CC1=CC=C(C(C2=CC=CC=C2)NC(=N)SC)C=C1
reactant | pyrrolidine | 0.07 mole, 5.0 g | N1CCCC1 | C4H9N
solvent | t-BuOH | 40 mls | CC(C)(C)O | C4H10O
product | N-(4-methylbenzhydryl)-1-pyrrolidinecarboximidamide hydroiodide | I.CC1=CC=C(C(C2=CC=CC=C2)NC(=N)N2CCCC2)C=C1 | InChI=1S/C19H23N3.HI/c1-15-9-11-17(12-10-15)18(16-7-3-2-4-8-16)21-19(20)22-13-5-6-14-22;/h2-4,7-12,18H,5-6,13-14H2,1H3,(H2,20,21);1H
